* /home/ashwini/esim-workspace/uc1525_error_amplifier1/uc1525_error_amplifier1.cir

.include NPN.lib
.include PNP.lib
q3 net-_i2-pad2_ net-_q3-pad2_ net-_q1-pad1_ Q2N2907A
q4 net-_q3-pad2_ net-_q3-pad2_ net-_q1-pad1_ Q2N2907A
q1 net-_q1-pad1_ net-_i2-pad2_ net-_i1-pad2_ Q2N2222
q2 net-_i2-pad2_ gnd net-_i1-pad2_ Q2N2222
q5 net-_i2-pad2_ net-_i2-pad2_ net-_q3-pad2_ Q2N2907A
i1 gnd net-_i1-pad2_  dc 0.2m
i2 gnd net-_i2-pad2_  dc 0.1m
* u1  gnd net-_i2-pad2_ zener
v2 net-_q1-pad1_ gnd  dc 12
v1  gnd net-_i2-pad2_ sine(0 5m 100 0 0) ac -1
r1  net-_i2-pad2_ out 10k
c1  out gnd 0.001u
a1 gnd net-_i2-pad2_ u1
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.ac dec 1000 10Hz 100Meg

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
