* /home/ashwini/esim-workspace/uc1525osc1/uc1525osc1.cir

.include ucosc1.sub
v1 net-_x1-pad2_ gnd  dc 5
r1  gnd net-_r1-pad2_ 7k
r2  net-_c1-pad1_ net-_r2-pad2_ 10k
c1  net-_c1-pad1_ gnd 0.05u
* u2  outr plot_v1
* u1  outt plot_v1
v2 gnd net-_x1-pad1_  dc 5
x1 net-_x1-pad1_ net-_x1-pad2_ net-_r2-pad2_ net-_r1-pad2_ net-_c1-pad1_ gnd outr outt ucosc1
.tran 0.1e-06 15e-03 5e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(outr)
plot v(outt)
.endc
.end
