* /home/ashwini/downloads/esim-2.3/library/subcircuitlibrary/ucosc1/ucosc1.cir

.include PNP.lib
.include NPN.lib
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q10-pad3_ Q2N2907A
q3 net-_q2-pad2_ net-_q2-pad2_ net-_q10-pad3_ Q2N2907A
q5 net-_q5-pad1_ net-_q2-pad1_ net-_q2-pad2_ Q2N2907A
q7 net-_q7-pad1_ net-_q7-pad1_ net-_q10-pad3_ Q2N2907A
q9 net-_q16-pad1_ net-_q7-pad1_ net-_q10-pad3_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q12 net-_q10-pad2_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q8 net-_q7-pad1_ net-_q5-pad1_ net-_i1-pad2_ Q2N2222
q11 net-_q10-pad2_ net-_q11-pad2_ net-_i1-pad2_ Q2N2222
q13 net-_q13-pad1_ net-_q13-pad2_ net-_i1-pad1_ Q2N2222
q14 net-_q13-pad1_ net-_c2-pad2_ net-_i1-pad1_ Q2N2222
q15 net-_q10-pad1_ net-_q10-pad1_ net-_i1-pad1_ Q2N2222
q16 net-_q16-pad1_ net-_q10-pad1_ net-_i1-pad1_ Q2N2222
q17 net-_q10-pad3_ net-_c2-pad1_ net-_q17-pad3_ Q2N2222
q1 net-_c1-pad2_ net-_q1-pad2_ net-_i1-pad1_ Q2N2222
q4 net-_c1-pad2_ net-_c1-pad1_ net-_q1-pad2_ Q2N2222
q6 net-_i1-pad1_ net-_q6-pad2_ net-_c1-pad1_ Q2N2907A
r6  net-_q11-pad2_ net-_q13-pad1_ 2k
r8  net-_i1-pad1_ net-_q11-pad2_ 14k
r7  net-_q11-pad2_ net-_q10-pad3_ 7.4k
r9  net-_c2-pad2_ net-_c2-pad1_ 25k
c2  net-_c2-pad1_ net-_c2-pad2_ 6p
r10  net-_q17-pad3_ net-_i1-pad1_ 3k
i1 net-_i1-pad1_ net-_i1-pad2_  dc 0.4m
r3  net-_c1-pad1_ net-_q6-pad2_ 23k
c1  net-_c1-pad1_ net-_c1-pad2_ 5p
r1  net-_q1-pad2_ net-_i1-pad1_ 1k
r5  net-_r5-pad1_ net-_q13-pad2_ 2k
r2  net-_q5-pad1_ net-_i1-pad1_ 1k
r4  net-_q6-pad2_ net-_i1-pad1_ 250
* u1  net-_i1-pad1_ net-_q10-pad3_ net-_c1-pad2_ net-_q2-pad1_ net-_q5-pad1_ net-_r5-pad1_ net-_c5-pad1_ net-_c6-pad1_ port
q18 net-_c4-pad2_ net-_c5-pad2_ net-_i1-pad1_ Q2N2222
q19 net-_c5-pad1_ net-_c4-pad1_ net-_i1-pad1_ Q2N2222
r13  net-_q10-pad3_ net-_c4-pad2_ 1k
r15  net-_q10-pad3_ net-_c5-pad1_ 1k
c4  net-_c4-pad1_ net-_c4-pad2_ 10n
c5  net-_c5-pad1_ net-_c5-pad2_ 10n
r12  net-_q10-pad3_ net-_c4-pad1_ 100k
r16  net-_q10-pad3_ net-_c5-pad2_ 100k
r11  net-_c4-pad2_ net-_c3-pad2_ 20k
c3  gnd net-_c3-pad2_ 15n
r14  net-_c3-pad2_ net-_c6-pad1_ 20k
c6  net-_c6-pad1_ gnd 15n
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
